data/pmechdb/original/mc_train_fold0/raw/train.txt
CCC1=N[C:10](=[C:11](O1)[O-:12])CC2CCCCC2.CC[C:20](=[O:21])OC(=O)CC.C1=CC=[NH+]C=C1>>CCC1=N[C:10]([C:11](=[O:12])O1)(CC2CCCCC2)[C:20](CC)([O-:21])OC(=O)CC.C1=CC=[NH+]C=C1 10,11=10,20;12=11;20,21=21
C[As+](C)(C)[CH:21]=[CH2:20].[OH:10][K]>>C[As+](C)(C)[CH-:21][CH2:20][OH+:10][K] 10=20;20,21=21
[H:20][OH+:21]C1(CCC(CC1)C(C2=CC=CC=C2)(C3=CC=CC=C3)O)OCCO.[OH2:10]>>[H:20][OH2+:10].C1CC(CCC1C(C2=CC=CC=C2)(C3=CC=CC=C3)O)([OH:21])OCCO 10=20;20,21=21
C[CH:10]=[C:11](CCC1(C(=O)CC[C:20]1=[O:21])C)[NH:12]C(C(C)C)C(=O)O.CC(C)C(C(=O)O)N.O>>C[CH:10]1[C:11](=[NH+:12]C(C(C)C)C(=O)O)CCC2([C:20]1(CCC2=O)[O-:21])C.CC(C)C(C(=O)O)N.O 10,11=10,20;20,21=21;12=11
[CH3:20][N+:21]#N.C1=[N:10]C2=C(N1)N=C(NC2=O)N>>N#[N:21].[CH3:20][N+:10]1=CNC2=C1C(=O)NC(=N2)N 10=20;20,21=21
C1C[OH+:21][C:20](OC1)([NH2:10])O>>C(C[OH:21])CO[C:20](=[NH2+:10])O 10=20;20,21=21
[H:20][CH:21]([C:22](=[O:23])CC1=CC(=O)OC(O1)(C)C)C(=O)OCC.C1=CC=[N:10]C=C1.C1=CC=C(C=C1)CCC(=O)Cl>>[H:20][N+:10]1=CC=CC=C1.CCOC(=O)[CH:21]=[C:22](CC1=CC(=O)OC(O1)(C)C)[O-:23].C1=CC=C(C=C1)CCC(=O)Cl 10=20;22,23=23;20,21=21,22
CC[C:20]([N+:21]1=CC=C(C=C1)N(C)C)([O-:10])OC(C)(C)C.CC[NH+](CC)CC.CC(=O)[O-]>>CC[C:20](=[O:10])OC(C)(C)C.CN(C)C1=CC=[N:21]C=C1.CC[NH+](CC)CC.CC(=O)[O-] 10=20;20,21=21
[B-]1(OC(C(O1)(C)C)(C)C)(CC=CCCC[CH:20]([OH+:21]C)[O:10]C)OC(=O)C(F)(F)F>>[B-]1(OC(C(O1)(C)C)(C)C)(CC=CCCC[CH:20]=[O+:10]C)OC(=O)C(F)(F)F.C[OH:21] 10=20;20,21=21
[H:20][CH:21](CC(=O)C1=CC=CC=C1)[C:22](=[NH2+:23])C.CC(=O)[O-:10].O>>[H:20][O:10]C(=O)C.C[C:22](=[CH:21]CC(=O)C1=CC=CC=C1)[NH2:23].O 10=20;22,23=23;20,21=21,22
CC(C)(C)[Si](C)(C)OCC(C)(C1=CC=CC=C1)C(=O)O[P:20]([N:21]=[N+]=[N-])([O-:10])(OC2=CC=CC=C2)OC3=CC=CC=C3.CC[NH+](CC)CC>>CC(C)(C)[Si](C)(C)OCC(C)(C1=CC=CC=C1)C(=O)O[P:20](=[O:10])(OC2=CC=CC=C2)OC3=CC=CC=C3.[N-:21]=[N+]=[N-].CC[NH+](CC)CC 10=20;20,21=21
CC#[C-:10].C[C:20](=[O:21])C>>CC#[C:10][C:20](C)(C)[O-:21] 10=20;20,21=21
[H:20][C:21]1([CH:22]=[CH:23][C+:24](O1)C)C2C(=O)OC3C2(OCC3O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C[C:24]1=[CH:23][CH:22]=[C:21](O1)C2C(=O)OC3C2(OCC3O)O 10=20;20,21=21,22;22,23=23,24
[H:20][O+:21](CC1(CC(C2C(C1=O)O2)(C)C)C)[Si-](C)(C)(C(C)(C)C)[N+]3=CNC=C3.C1=C[N:10]=CN1.[Cl-]>>[H:20][N+:10]1=CNC=C1.CC1(CC(C(=O)C2C1O2)(C)C[O:21][Si-](C)(C)(C(C)(C)C)[N+]3=CNC=C3)C.[Cl-] 10=20;20,21=21
[H:20][O:21]C(C[CH:10]=[C:11](COC(=O)C)[O-:12])(C1=CC=C(C=C1)F)C2=[N+](C(=C(S2)CCO)C)CC3=CC=CC=C3.CC[NH+](CC)CC.[Cl-]>>[H:20][CH:10](CC(C1=CC=C(C=C1)F)(C2=[N+](C(=C(S2)CCO)C)CC3=CC=CC=C3)[O-:21])[C:11](=[O:12])COC(=O)C.CC[NH+](CC)CC.[Cl-] 10,11=10,20;20,21=21;12=11
[H:20][OH:21].C1CC(OC(=O)C1)C2CC2C(CO)[O:10][Sn-](Cl)(Cl)(Cl)Cl>>[H:20][O+:10](C(CO)C1CC1C2CCCC(=O)O2)[Sn-](Cl)(Cl)(Cl)Cl.[OH-:21] 10=20;20,21=21
COC1=CC=C(C=C1)[CH2:20][Br:21].C1COCC[NH:10]1>>COC1=CC=C(C=C1)[CH2:20][NH+:10]2CCOCC2.[Br-:21] 10=20;20,21=21
C[O:10]C.C[Si:20](C)(C)I>>C[O+:10](C)[Si-:20](C)(C)(C)I 10=20,
C[N:10](C)C.Cl[Cu:20]Cl>>C[N+:10](C)(C)[Cu-:20](Cl)Cl 10=20,
[H:20][C:21]1([CH+:22]C=CC2=C1C=C(C=C2)S(=O)(=O)O)C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[CH:22]C=CC2=C1C=C(C=C2)S(=O)(=O)O 10=20;20,21=21,22
COC(=O)C1=CC=C(C=C1)[CH2:20][O:21][P+:22](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4.[Br-:10].C(Br)(Br)Br>>COC(=O)C1=CC=C(C=C1)[CH2:20][Br:10].C1=CC=C(C=C1)[P:22](=[O:21])(C2=CC=CC=C2)C3=CC=CC=C3.C(Br)(Br)Br 10=20;20,21=21,22
[H:20][O:21]C(=O)C.CC(CCC(=O)C1=CC=CC=C1)([NH3+])[O-:10]>>[H:20][O:10]C(C)(CCC(=O)C1=CC=CC=C1)[NH3+].CC(=O)[O-:21] 10=20;20,21=21
[H:20][OH2+:21].C=[O:10]>>[H:20][O+:10]=C.[OH2:21] 10=20;20,21=21
[H:20][O:21]C(=O)CCCl.[C-:10]#N>>[H:20][C:10]#N.C(CCl)C(=O)[O-:21] 10=20;20,21=21
C[P-:11]1(=O)([CH2:10][CH2:20][O:21]1)C>>C[P:11](=O)(C)[O-:21].[CH2:10]=[CH2:20] 10,11=10,20;20,21=21
CC1CC(C(C1[CH:20]=[N+:21](C)C2=CC=CC=C2)C(=C[O-:10])C)C3CCCCC3.C[NH2+]C1=CC=CC=C1.O>>CC1CC(C2C1[CH:20]([O:10]C=C2C)[N:21](C)C3=CC=CC=C3)C4CCCCC4.C[NH2+]C1=CC=CC=C1.O 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC(=C(C=C1)O)C(=O)O.C[NH+]1CCC23C4C1CC5=C2C(=C(C=C5)OC)OC3C(=[O:10])CC4.CO.COC=[O+]C>>[H:20][O+:10]=C1CCC2C3CC4=C5C2(C1OC5=C(C=C4)OC)CC[NH+]3C.C1=CC(=C(C=C1S(=O)(=O)[O-:21])C(=O)O)O.CO.COC=[O+]C 10=20;20,21=21
CC[CH:20]=[O:21].C[NH:10]CC(=O)O.C[NH2+]CC(=O)[O-]>>CC[CH:20]([NH+:10](C)CC(=O)O)[O-:21].C[NH2+]CC(=O)[O-] 10=20;20,21=21
[H:20][CH:21](C(C1=CC=CC=C1)O)[C:22](=[O:23])C.CC[O-:10]>>[H:20][O:10]CC.C[C:22](=[CH:21]C(C1=CC=CC=C1)O)[O-:23] 10=20;22,23=23;20,21=21,22
CCC(=O)C1=C(C=CC=C1)[CH:20]=[O:21].[C-:10]#N.[Na+]>>CCC(=O)C1=C(C=CC=C1)[CH:20]([C:10]#N)[O-:21].[Na+] 10=20;20,21=21
[H:20][OH+:21]C.C1C=C(OC1(C2=CC=CC(=C2)Br)[OH:10])C3=CC=C(C=C3)Br.[Cl-]>>[H:20][OH+:10]C1(CC=C(O1)C2=CC=C(C=C2)Br)C3=CC=CC(=C3)Br.C[OH:21].[Cl-] 10=20;20,21=21
[H:20][OH:21].CCN1CCC23C4C(CCC2(C1CC5=C3C(=C(C=C5)OC)O4)O)([NH2+]N)[O-:10].C(COCCO)O>>[H:20][O:10]C1(CCC2(C3CC4=C5C2(C1OC5=C(C=C4)OC)CCN3CC)O)[NH2+]N.[OH-:21].C(COCCO)O 10=20;20,21=21
CCC1(OCC(O1)[CH:20]=[OH+:21])[C:11](=[CH2:10])[OH:12]>>CCC12[C:11](=[OH+:12])[CH2:10][CH:20](C(O1)CO2)[OH:21] 10,11=10,20;20,21=21;12=11
